US08309721B2
0.47 g of potassium carbonate and 1.7 g of 3-amino-1-propanol are successively added to a solution of 0.55 g of 4-{4-[5-(benzyloxy)pyridin-3-yl]-9H-carbazol-9-yl}-2-fluorobenzonitrile, obtained in stage 3 of Example 67, in 6 ml of dimethyl sulphoxide. The reaction mixture is heated at 90° C. for 1 hour 20 minutes in a microwave, and then 11.5 ml of ethanol are added, followed by 2.2 ml of a 1N solution of sodium hydroxide and 2.2 ml of 30% aqueous hydrogen peroxide. The reaction mixture is stirred at ambient temperature for 1 hour and then diluted with distilled water. The aqueous phase is extracted twice with ethyl acetate and the combined organic phases are washed with water and a saturated solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure, and the residue is triturated with dichloromethane and diisopropyl ether, so as to give 0.29 g of 4-{4-[5-(benzyloxy)pyridin-3-yl]-9H-carbazol-9-yl}-2-[(3-hydroxypropyl)amino]benzamide in the form of a white solid, the characteristics of which are the following:

reactant | potassium carbonate | 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-1-propanol | 1.7 g | NCCCO | C3H9NO
reactant | 4-{4-[5-(benzyloxy)pyridin-3-yl]-9H-carbazol-9-yl}-2-fluorobenzonitrile | 0.55 g | C(C1=CC=CC=C1)OC=1C=C(C=NC1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C#N)C=C1)F | C31H20FN3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 2.2 ml | OO | H2O2
solvent | dimethyl sulphoxide | 6 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ethanol | 11.5 ml | C(C)O | C2H6O
product | 4-{4-[5-(benzyloxy)pyridin-3-yl]-9H-carbazol-9-yl}-2-[(3-hydroxypropyl)amino]benzamide | 0.29 g | C(C1=CC=CC=C1)OC=1C=C(C=NC1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)N)C=C1)NCCCO | C34H30N4O3
